Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been having suicidal ideation"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ male with a history of generalized anxiety 
disorder and hypertension who is referred from his provider at 
___ after presenting there today with 
anxiety and SI with plan to either cut wrists or overdose on 
propranolol. Patient reports struggling with anxiety and 
depression since middle school. He states that he is trying to 
change careers but is dreading the music performance and 
practice necessary to complete his bachelors degree before 
transitioning to a post-___ pre-med program. He reports 
increased anxiety, denies panic attacks, endorses ruminating 
about things.

Patient states that last night he lay away for hours with 
suicidal thoughts, hoping they would pass. He denies ever acting 
on these thoughts, but states they have been there for many 
years. Pt reports decreased mood interest in activities he used 
to enjoy, like playing video games.  He reports his sleep has 
always been poor, denies change in appetite, says he has 
"virtually no" motivation, "low" energy, endorses feelings of 
guilt.  He states, "Sometimes, I feel like I'm just doing this 
for - I don't want to say for attention - but I feel guilty 
about seeking help for this because I'm convinced I can just get 
over it." He reports that he has "been combating suicidal 
thoughts for a long time." 

Per ___, NP at ___, ___ walked into the clinic with 
chest pain and anxiety and mentioned that he was considering 
ending his life last night, was lying on his bed and didn't want 
to move because he was fearful of what he would do to himself.  
He told her he had a plan to either use a knife or overdose on 
propranolol.  About 2 weeks ago, he presented in a similar state 
but wasn't speaking specifically about suicidal ideation.  He 
was distressed after visiting his family over the weekend.  His 
sister and uncle have addictions problems, which causes a lot of 
stress for him.  At that time, he was able to be seen by a 
counselor and a psychiatrist at that time and was able to 
contract for safety. Per ___ has been diagnosed with 
generalized anxiety disorder and hypertension.  Does use 
marijuana regularly, has been successful at stopping it in the 
past, but it has been a coping mechanism for him when he is 
under stress.  Stopping marijuana was what led to his 
presentation on ___.

On interview, ___ states that he is not currently feeling 
suicidal, but that the feelings come and go, worse at night and 
when patient is practicing music or thinking about a 
performance. Patient states that originally he just had 
performance anxiety, but it has increased to a sense of dread 
surrounding all aspects of music. ___ denies feelings of 
paranoia, but does state that at times, he feels almost as if 
someone is watching him when
he can't fall asleep. 
 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
Sister and uncle with drug use disorder
 
Physical Exam:
PHYSICAL EXAMINATION (on admission):
VS: T:98.8 , BP:143/87 , HR:58 , R:16 , O2 sat:97% on RA

General: Overweight male, appears stated age, NAD, wearing
glasses and hospital gown
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. 
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended.  Extremities: No
clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves: CNII-XII grossly intact
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout.  
 Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Speech: normal rate, quiet volume, and flat tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: Overweight male, appears stated age, NAD, wearing
glasses and hospital gown, wide-eyed, anxious-appearing
 Behavior: cooperative, pleasant, appropriate eye contact, no
psychomotor agitation or retardation
 Mood and Affect: "anxious " / mood-congruent, anxious,
suspicious
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI/AH/VH but does state that he has
had SI in the last day and that sometimes it feels like someone
is watching him while he's laying in bed
 Judgment and Insight: guarded/ guarded

DISCHARGE MENTAL STATUS EXAM
Vital Signs:  
T 97.9, BP 147/98, HR 84, RR 16, SpO2 99% RA
 
MSE- 
Appearance: adequate grooming and hygiene, appears stated age
Behavior: calm and cooperative, good eye contact, smiles 
spontaneously, no notable PMA/PMR
Speech: grossly normal rate/tone/prosody/volume
Mood:   'Good'
Affect:  mood linear, logical, future-oriented
Thought Content: no SI/HI, no evidence of delusions
Perceptions: no AVH
Insight/Judgment: good/fair
Cognitive Exam: Alert/Oriented x3, fluent speech in ___

 
Pertinent Results:
___ 02:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:45AM BLOOD VitB12-542 Folate-13
___ 04:45AM BLOOD TSH-2.7

___ 01:00PM BLOOD Cholest-266*
___ 01:00PM BLOOD Triglyc-184* HDL-48 CHOL/HD-5.5 
LDLcalc-181*
 
Brief Hospital Course:
This is as ___ year old single Caucasian man, previously 
diagnosed with depression, anxiety, currently a senior at ___ 
___, who presented to ___ as a referral from 
his outpatient psychiatric provider with worsening depression, 
anxiety, chest pain and suicidal ideation with plan to cut his 
wrists or overdose on propranolol. 
.
Upon interview, patient reports longstanding history of 
depression and anxiety beginning in childhood with recent 
worsening of symptoms in the setting of academic stressors, 
conflict with family. Given subjective symptoms with low mood, 
poor sleep, energy, poor concentration, suicidal ideation, 
anhedonia, he likely meets criteria for major depressive 
disorder without psychotic features. Also likely meets criteria 
for generalized anxiety disorder. However, given the chronicity 
of his depression with chronic suicidal ideation, I am also 
suspicious of underlying cluster B traits with recent 
decompensation. I cannot rule out underlying substance use, 
given reports of cannabis use perhaps overuse of Ativan, 
although tox screen was notably negative. 
.
#. Legal/Safety: Patient admitted on a ___, upon 
admission signed a CV, which was accepted. Stating he did not 
want to be in the hospital, he also signed a 3 day notice on 
___ that expired on ___. Given improvement in 
depression, adherence with treatment, denial of suicidal 
ideation and good behavioral control, I did not believe he met 
criteria to file 7&8b at this time. 
Of note, Mr. ___ maintained his safety throughout his 
psychiatric hospitalization on 15 minute checks and did not 
require physical or chemical restraints. 
.  
#. MDD, recurrent, severe, without psychotic features/GAD 
- Patient was compliant in attending some groups and maintained 
good behavioral control throughout his admission. He was active 
in treatment and demonstrated improved insight, discussing his 
perfectionistic tendencies and how this may affect his mood and 
anxiety. Patient allowed the treatment team to contact his 
parents, who were supportive in his care. 
- After discussion of the risks and benefits, we continued 
Sertraline 200 mg po qd, which he tolerated well with no 
complaints of side effects. Discussed the risks and benefits of 
augmenting this SSRI, and patient agreed to a trial of 
risperidone which was started at 0.5 mg po qhs and 0.5 mg po bid 
prn agitation. He tolerated the risperidone well with 
improvement in mood and anxiety with no unwanted side effects
- For anxiety and insomnia, we discussed the risks and benefits 
of Valium, which was started at 5 mg po bid. However, patient 
required few doses, and given his overuse of the Ativan, this 
was tapered off prior to discharge with no worsening of anxiety 
or depression
- Given concern for overdose, propranolol was tapered off prior 
to discharge. In addition, patient allowed friend to remove 
propranolol from the apartment, which was confirmed by the 
treatment team. 
- By time of discharge, patient was notably consistently denying 
thoughts of suicide or self harm and reported improvement in 
mood. He was notably linear, goal and future oriented with plan 
to return to ___ and follow up with outpateint treaterse. 

#. Hypertension: as above
- Patient weaned off propranolol as noted above with BP's that 
remained stable throughout his admission
- Recommend continuing to monitor as an outpatient  
.
#. High Cholesterol
-Lipid Panel during admission was elevated, no pharmacologic 
intervention initiated
-Recommend re-check Lipid Panel as outpatient

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Propranolol 20 mg PO BID 
2. Sertraline 200 mg PO DAILY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 

 
Discharge Medications:
1.  RisperiDONE 0.5 mg PO QHS 
RX *risperidone 0.5 mg 1 tablet(s) by mouth nightly Disp #*15 
Tablet Refills:*0 
2.  RisperiDONE 0.5 mg PO BID:PRN anxiety, agitation 
RX *risperidone 0.5 mg 1 tablet(s) by mouth twice per day as 
needed Disp #*30 Tablet Refills:*0 
3.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
4.  Sertraline 200 mg PO DAILY 
RX *sertraline 100 mg 2 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Generalized Anxiety Disorder with depressive symptoms

 
Discharge Condition:
Vital Signs:  
T 97.9, BP 147/98, HR 84, RR 16, SpO2 99% RA
 
MSE- 
Appearance: adequate grooming and hygiene, appears stated age
Behavior: calm and cooperative, good eye contact, smiles 
spontaneously, no notable PMA/PMR
Speech: grossly normal rate/tone/prosody/volume
Mood:   'Good'
Affect:  mood linear, logical, future-oriented
Thought Content: no SI/HI, no evidence of delusions
Perceptions: no ___
Insight/Judgment: good/fair
Cognitive Exam: Alert/Oriented x3, fluent speech in ___

 
Discharge Instructions:
You were hospitalized at ___ for suicidal ideation with a plan 
in the setting of acute escalating anxiety.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way, including having suicidal ideation, 
planning, or intent, and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___